US07138425B2
b) 2-(2-Propylamino-5-nitrophenyl)-5-(2-benzofuranyl)benzoxazole
Prepared by the method of Example 54a), from 2-(2-fluoro-5-nitrophenyl)-5-(2-benzofuranyl)benzoxazole (200 mg, 0.53 mmol), and propylamine (3 ml) the subtitle compound was obtained (199 mg, 91%). The product was used directly in the next step without purification.

reactant | 2-(2-fluoro-5-nitrophenyl)-5-(2-benzofuranyl)benzoxazole | 0.53 mmol, 200 mg | FC1=C(C=C(C=C1)[N+](=O)[O-])C=1OC2=C(N1)C=C(C=C2)C=2OC1=C(C2)C=CC=C1 | C21H11FN2O4
reactant | propylamine | 3 ml | C(CC)N | C3H9N
product | 2-(2-Propylamino-5-nitrophenyl)-5-(2-benzofuranyl)benzoxazole | C(CC)NC1=C(C=C(C=C1)[N+](=O)[O-])C=1OC2=C(N1)C=C(C=C2)C=2OC1=C(C2)C=CC=C1 | C24H19N3O4
